US04885022
(1) Methyl-2-chloro-4-methanesulfonyl-3-methoxymethylbenzoate
To a solution comprising 12.0 g of methyl 3-bromomethyl-2-chloro-4-methanesulfonylbenzoate prepared in Reference Example 3(1) and 100 ml of methanol, 50 ml of a methanol solution containing 1.7 g of sodium methoxide was added, and the mixture was stirred at room temperature overnight. The solvent was distilled off under reduced pressure. Then, dilute hydrochloric acid was added to the residue, and the mixture was extracted with chloroform. The extract was washed with water and dried over anhydrous sodium sulfate. Then, the solvent was distilled off to obtain 9.5 g of the desired product as a crude product. The crude product was purified by silica gel column chromatography (eluted with benzene) to obtain 7.5 g of a purified product as an oily substance.

reactant | methyl 3-bromomethyl-2-chloro-4-methanesulfonylbenzoate | 12.0 g | BrCC=1C(=C(C(=O)OC)C=CC1S(=O)(=O)C)Cl | C10H10BrClO4S
reactant | sodium methoxide | 1.7 g | C[O-].[Na+]
solvent | methanol | 50 ml | CO | CH4O
solvent | methanol | 100 ml | CO | CH4O
product | Methyl-2-chloro-4-methanesulfonyl-3-methoxymethylbenzoate | 9.5 g | COC(C1=C(C(=C(C=C1)S(=O)(=O)C)COC)Cl)=O | C11H13ClO5S
